US06955851B2
A reaction flask containing tris(4-methoxyphenyl)phosphine oxide (973.2 g) was charged with 48% aq HBr (2250 mL) and KBr (126.1 g). The flask was fitted with a sodium sulfite scrubber for containment of methyl bromide. The reaction mixture was heated to reflux (114° C.) and maintained at reflux until complete based on HPLC analysis. The product was worked up to give 558.5 g of tris(4-hydroxyphenyl)phosphine oxide (31P NMR (d6-DMSO): δ 27.6 (s); 1H NMR (d6-DMSO): δ 10.9 (s, 3H), 7.38 (m, 6H), 6.84 (m, 6H)).

reactant | tris(4-methoxyphenyl)phosphine oxide | 973.2 g | COC1=CC=C(C=C1)P(C1=CC=C(C=C1)OC)(C1=CC=C(C=C1)OC)=O | C21H21O4P
reactant | KBr | 126.1 g | [K+].[Br-]
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | methyl bromide | CBr | CH3Br
solvent | HBr | 2250 mL | Br | BrH
product | tris(4-hydroxyphenyl)phosphine oxide | 558.5 g | OC1=CC=C(C=C1)P(C1=CC=C(C=C1)O)(C1=CC=C(C=C1)O)=O | C18H15O4P
